US09023847B2
25. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-o-tolyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(2-methylphenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 377 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.97 (1H, br. s.) 10.45 (1H, s) 8.28 (1H, t, J=5.66 Hz) 8.06 (1H, d, J=6.25 Hz) 7.84 (1H, d, J=5.47 Hz) 7.36-7.43 (2H, m) 7.01-7.15 (4H, m) 6.78 (1H, d, J=6.25 Hz) 6.59 (1H, d, J=3.51 Hz) 3.39 (2H, td, J=7.52, 6.05 Hz) 2.77 (2H, d, J=7.81 Hz) 2.29 (3H, s)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(2-methylphenyl)ethylamine | CC1=C(C=CC=C1)CCN | C9H13N
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-o-tolyl-ethyl)-amide | C1(=C(C=CC=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)C | C21H20N4OS
